US07518003B2
In a 50 L-volume autoclave made of stainless-steel, 16.22 kg of isobutylvinylether (IBVE), 6.97 kg of acrolein (ACR) and 0.08 kg of di-t-butylhydroxytoluene (BHT) were placed and the inside of the reactor was purged with nitrogen. The pressure was increased to 3 MPa with nitrogen and reaction was performed at 135° C. for 16 hours. The yield of 3,4-dihydro-2-isobutoxy-2H-pyran (DHIBP) was 94% (with ACR used as standard). The reaction solution was subjected to distillation, to thereby obtain 17.1 kg of DHIBP (20 kPa/120° C.).

reactant | isobutylvinylether | 16.22 kg | C(C(C)C)OC=C | C6H12O
reactant | acrolein | 6.97 kg | C(=O)C=C | C3H4O
catalyst | di-t-butylhydroxytoluene | 0.08 kg | C(C)(C)(C)C1=C(C(=C(C=C1)C)O)C(C)(C)C | C15H24O
product | DHIBP | 17.1 kg | C(C(C)C)OC1OC=CCC1 | C9H16O2
